US05145860
A mixture of 1,2-bis(4-methoxyphenyl)-2-chloroethanone (5.99 g) and 2-(acetylamino)ethanethioamide (3.00 g) in ethanol (30 ml) was refluxed for 2 hours. After allowing to cool to room temperature, the solvent was evaporated in vacuo, and the residue was dissolved in chloroform (200 ml) and aqueous solution of sodium hydrogencarbonate (200 ml). The separated organic layer was washed with water and brine, dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo. The resulting residue was dissolved in diethyl ether, added ethanol solution of hydrogen chloride, and the resulting precipitate was collected by filtration. The resulting crude compound was recrystallized with ethanol 10 ml). And the resulting crystal was collected by filtration, washed with ethanol and diethyl ether, and dried to give 2-acetylaminomethyl-4,5-bis(4-methoxyphenyl)thiazole (2.52 g).

reactant | 1,2-bis(4-methoxyphenyl)-2-chloroethanone | 5.99 g | COC1=CC=C(C=C1)C(C(Cl)C1=CC=C(C=C1)OC)=O | C16H15ClO3
reactant | 2-(acetylamino)ethanethioamide | 3.00 g | C(C)(=O)NCC(N)=S | C4H8N2OS
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-acetylaminomethyl-4,5-bis(4-methoxyphenyl)thiazole | 2.52 g | C(C)(=O)NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H20N2O3S
